US09388166B2
A solution of {4-[(E)-2-(2-chloro-6-methoxy-phenyl)-vinyl]-3-nitro-phenyl}-carbamic acid tert-butyl ester (240 mg, 0.59 mmol) in triethyl phosphite (5.0 ml) was refluxed for 3 h. The reaction mixture was cooled to 25° C., and poured into water. The aqueous phase was extracted three times with ethyl acetate. The combined organic layers were washed with brine and dried over magnesium sulfate. Filtration followed by concentration in vacuo gave a brown solid. Flash chromatography (70/30 hexanes/ethyl acetate) afforded [2-(2-chloro-6-methoxy-phenyl)-1H-indol-6-yl]-carbamic acid tert-butyl ester (140 mg, 63%) as a white solid. MH+ 373.0.

reactant | {4-[(E)-2-(2-chloro-6-methoxy-phenyl)-vinyl]-3-nitro-phenyl}-carbamic acid tert-butyl ester | 0.59 mmol, 240 mg | C(C)(C)(C)OC(NC1=CC(=C(C=C1)\C=C\C1=C(C=CC=C1OC)Cl)[N+](=O)[O-])=O | C20H21ClN2O5
reactant | water | O | H2O
solvent | triethyl phosphite | 5.0 ml | P(OCC)(OCC)OCC | C6H15O3P
product | [2-(2-chloro-6-methoxy-phenyl)-1H-indol-6-yl]-carbamic acid tert-butyl ester | 140 mg, 63% | C(C)(C)(C)OC(NC1=CC=C2C=C(NC2=C1)C1=C(C=CC=C1OC)Cl)=O | C20H21ClN2O3
